US06107337
A solution of 3-[(1-benzyloxycarbamoylcyclopentyl)-(4'-fluorobiphenyl-4-sulfonyl)amino]propionic acid methyl ester (10.65 grams, 19.2 mmole) in methanol (250 mL) was treated with 5% palladium on barium sulfate and hydrogenated in a Parr™ shaker at 3 atmospheres pressure for 3 hours. After filtration through nylon (pore size 0.45 μm) to remove the catalyst, the solvent was evaporated to afford 3-[(4'-fluorobiphenyl-4-sulfonyl)-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid methyl ester as a white foam (8.9 grams, 100%).

reactant | 3-[(1-benzyloxycarbamoylcyclopentyl)-(4'-fluorobiphenyl-4-sulfonyl)amino]propionic acid methyl ester | 19.2 mmole, 10.65 grams | COC(CCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)C1(CCCC1)C(NOCC1=CC=CC=C1)=O)=O | C29H31FN2O6S
solvent | methanol | 250 mL | CO | CH4O
catalyst | palladium on barium sulfate | [Pd] | Pd
product | 3-[(4'-fluorobiphenyl-4-sulfonyl)-(1-hydroxycarbamoylcyclopentyl)amino]propionic acid methyl ester | 8.9 grams, 100% | COC(CCN(C1(CCCC1)C(NO)=O)S(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O | C22H25FN2O6S
